US04311645
The 5S,6R dimethylester, i.e. (5S,6R)(E,E,Z,Z)-S-(5-hydroxy-1-methoxy-1-oxoeicosa-7,9,11,14-tetraen-6-yl)-L-cysteine methyl ester (0.3 g) was dissolved in methanol (15 mL) and treated with potassium hydroxide (150 mg) in water (1.5 mL) and left at room temperature for 90 min. Water (20 mL) was then added and the bulk of the solvents were removed in vacuo. The aqueous solution resulting from the above treatment was mixed with Dowex 50W ×4 resin (25 mL) [sulfonated polystyrene ion exchange resin in the acid form] and then poured onto a column of the same material (25 mL). The column was then washed with water until neutral and then eluted with aqueous ammonia solution (10%). As soon as the ammonia front was eluting, 150 mL was collected, treated with n-butanol (10 mL) and concentrated at 45° and 20 nm until all the n-butanol and ammonia were removed. The residual aqueous solution was then freeze-dried to yield the (5S,6R) (E,E,Z,Z)-S-(5-hydroxy-1-hydroxy-1-oxoeicosa-7,9,11,14-tetraen-6-yl)-L-cysteine mono ammonium salt as a powder (130 mg).

reactant | (5S,6R)(E,E,Z,Z)-S-(5-hydroxy-1-methoxy-1-oxoeicosa-7,9,11,14-tetraen-6-yl)-L-cysteine methyl ester | 0.3 g | COC([C@@H](N)CS[C@@H]([C@H](CCCC(=O)OC)O)\C=C\C=C\C=C/C\C=C/CCCCC)=O | C25H41NO5S
reactant | potassium hydroxide | 150 mg | [OH-].[K+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
solvent | Water | 20 mL | O | H2O
product | (5S,6R) (E,E,Z,Z)-S-(5-hydroxy-1-hydroxy-1-oxoeicosa-7,9,11,14-tetraen-6-yl)-L-cysteine mono ammonium salt | 130 mg | [NH4+].O[C@@H](CCCC(=O)O)[C@@H](\C=C\C=C\C=C/C\C=C/CCCCC)SC[C@H](N)C(=O)[O-] | InChI=1S/C23H37NO5S.H3N/c1-2-3-4-5-6-7-8-9-10-11-12-13-16-21(30-18-19(24)23(28)29)20(25)15-14-17-22(26)27;/h6-7,9-13,16,19-21,25H,2-5,8,14-15,17-18,24H2,1H3,(H,26,27)(H,28,29);1H3/b7-6-,10-9-,12-11+,16-13+;/t19-,20-,21+;/m0./s1
